US04242507
In 1 N aqueous sodium hydroxide (b 98 ml) is dissolved 1-hydroxy-1,2,3-benzotriazole (13.5 g). To the solution is added powdery p-nitrobenzenesulfonyl chloride (22.2 g) with stirring under ice-cooling, and the mixture is stirred at the same temperature for 15 minutes and further at room temperature for 4.5 hours. After allowing to stand overnight, the reaction mixture is extracted with ethyl acetate (150 ml). The extract is washed with water and dried over anhydrous sodium sulfate. After drying, the solvent is distilled off. The resulting powdery residue is washed twice with petroleum ether (30 ml) and recrystallized from benzene (90 ml) to give colorless crystals. The crystals are dissolved in ethyl acetate (100 ml) and the mixture is washed twice with a saturated aqueous sodium hydrogen carbonate (10 ml) and water in order and dried over anhydrous sodium sulfate. After drying, the solvent is distilled off under a reduced pressure to give colorless crystals of 1-(p-nitrobenzensulfonyloxy)-1,2,3-benzotriazole (14 g), melting point: 119.5°-121.5° C. Ultraviolet spectrum (methanol): λmax 254 nm, E=234.

reactant | 1-hydroxy-1,2,3-benzotriazole | 13.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | p-nitrobenzenesulfonyl chloride | 22.2 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | sodium hydroxide | 1 N, 98 ml | [OH-].[Na+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(p-nitrobenzensulfonyloxy)-1,2,3-benzotriazole | 14 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)ON1N=NC2=C1C=CC=C2 | C12H8N4O5S
